US07022689B2
To a stirred solution of 0.30 g of N-[2-(2-amino-4-isopropylphenyl)ethyl]-5-cyano-2-methoxybezenesulfonamide, 0.298 g of (1-trityl-1H-tetrazol-5-yl)acetic acid and 0.129 g of 1-hydroxybenzotriazole monohydrate in 2.4 mL of N,N-dimethylformamide was added 0.140 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride under ice-cooling, and the mixture was stirred at room temperature for 14 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid, water, and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.549 g of N-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]-2-(1-trityl-1H-tetrazol-5-yl)acetamide.

reactant | N-[2-(2-amino-4-isopropylphenyl)ethyl]-5-cyano-2-methoxybezenesulfonamide | 0.30 g | NC1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC | C19H23N3O3S
reactant | (1-trityl-1H-tetrazol-5-yl)acetic acid | 0.298 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1CC(=O)O | C22H18N4O2
reactant | 1-hydroxybenzotriazole monohydrate | 0.129 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.140 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]-2-(1-trityl-1H-tetrazol-5-yl)acetamide | 0.549 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NC(CC1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)OC | C41H39N7O4S
